US08791107B2
PREPARATION x1: 2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
2,4-Dichloropyrimidin-5-amine (25 g, 152 mmol) and morpholine-3-carboxylic acid hydrochloride (28.1 g, 168 mmol) were dissolved in DMSO (200 mL) to give a yellow suspension. To the suspension was added N,N-diisopropylethylamine (106 mL, 610 mmol) and the mixture was heated to 100° C. for 18 hours. The mixture was cooled to room temperature and poured into ice. Water was added until the total volume was 1 L. The resulting beige suspension was stirred overnight before the solid was collected on a fritted-glass funnel of medium porosity. The solid was washed with water (3×) and then dried under a stream of nitrogen overnight to afford the title compound as a light yellow solid that was used without further purification (18.6 g, 51%). ESI-MS m/z [M+H]+ calc'd for C9H9ClN4O2, 241.04. found 241.1.

reactant | 2,4-Dichloropyrimidin-5-amine | 152 mmol, 25 g | ClC1=NC=C(C(=N1)Cl)N | C4H3Cl2N3
reactant | morpholine-3-carboxylic acid hydrochloride | 168 mmol, 28.1 g | Cl.N1C(COCC1)C(=O)O
reactant | N,N-diisopropylethylamine | 610 mmol, 106 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | 2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | ClC1=NC=2N3C(C(NC2C=N1)=O)COCC3 | C9H9ClN4O2
